***Via model***
.SUBCKT Via74::MIPI_DSI0_DATA2_N
+       Node2494::MIPI_DSI0_DATA2_N Node2425::MIPI_DSI0_DATA2_N
+       Node3029::MIPI_DSI0_DATA2_P Node2955::MIPI_DSI0_DATA2_P
+       ngnd

Cu_Node2494::MIPI_DSI0_DATA2_N Node2494::MIPI_DSI0_DATA2_N ngnd 1.39627e-13
Cd_Node2425::MIPI_DSI0_DATA2_N Node2425::MIPI_DSI0_DATA2_N ngnd 1.77079e-13
Cu_Node3029::MIPI_DSI0_DATA2_P Node3029::MIPI_DSI0_DATA2_P ngnd 1.39627e-13
Cd_Node2955::MIPI_DSI0_DATA2_P Node2955::MIPI_DSI0_DATA2_P ngnd 1.77079e-13

LNode2494::MIPI_DSI0_DATA2_N Node2494::MIPI_DSI0_DATA2_N Node2425::MIPI_DSI0_DATA2_Ntmp  6.20105e-10
VRLNode2494::MIPI_DSI0_DATA2_N Node2425::MIPI_DSI0_DATA2_Ntmp Node2425::MIPI_DSI0_DATA2_N 0 r_0= 0.000353029
LNode3029::MIPI_DSI0_DATA2_P Node3029::MIPI_DSI0_DATA2_P Node2955::MIPI_DSI0_DATA2_Ptmp  6.20105e-10
VRLNode3029::MIPI_DSI0_DATA2_P Node2955::MIPI_DSI0_DATA2_Ptmp Node2955::MIPI_DSI0_DATA2_P 0 r_0= 0.000353029
KNode3029::MIPI_DSI0_DATA2_PNode2494::MIPI_DSI0_DATA2_N LNode3029::MIPI_DSI0_DATA2_P LNode2494::MIPI_DSI0_DATA2_N 0.313855
.ENDS 

.SUBCKT Via73::MIPI_DSI0_DATA3_N
+       Node2408::MIPI_DSI0_DATA3_N Node2424::MIPI_DSI0_DATA3_N
+       Node2846::MIPI_DSI0_DATA3_P Node2954::MIPI_DSI0_DATA3_P
+       ngnd

Cu_Node2408::MIPI_DSI0_DATA3_N Node2408::MIPI_DSI0_DATA3_N ngnd 1.93285e-13
Cd_Node2424::MIPI_DSI0_DATA3_N Node2424::MIPI_DSI0_DATA3_N ngnd 2.30916e-13
Cu_Node2846::MIPI_DSI0_DATA3_P Node2846::MIPI_DSI0_DATA3_P ngnd 1.93285e-13
Cd_Node2954::MIPI_DSI0_DATA3_P Node2954::MIPI_DSI0_DATA3_P ngnd 2.30916e-13

LNode2846::MIPI_DSI0_DATA3_P Node2846::MIPI_DSI0_DATA3_P Via78::MIPI_DSI0_DATA3_P_PatchSignal#GNDtmp  1.3358e-11
VRLNode2846::MIPI_DSI0_DATA3_P Via78::MIPI_DSI0_DATA3_P_PatchSignal#GNDtmp Via78::MIPI_DSI0_DATA3_P_PatchSignal#GND 0 r_0= 2.52678e-05
LVia73::MIPI_DSI0_DATA3_N_PatchSignal#GND Via73::MIPI_DSI0_DATA3_N_PatchSignal#GND Via73::MIPI_DSI0_DATA3_N_PatchSignal#PWOERtmp  6.58812e-10
VRLVia73::MIPI_DSI0_DATA3_N_PatchSignal#GND Via73::MIPI_DSI0_DATA3_N_PatchSignal#PWOERtmp Via73::MIPI_DSI0_DATA3_N_PatchSignal#PWOER 0 r_0= 0.000302494
LVia78::MIPI_DSI0_DATA3_P_PatchSignal#GND Via78::MIPI_DSI0_DATA3_P_PatchSignal#GND Via78::MIPI_DSI0_DATA3_P_PatchSignal#PWOERtmp  6.58812e-10
VRLVia78::MIPI_DSI0_DATA3_P_PatchSignal#GND Via78::MIPI_DSI0_DATA3_P_PatchSignal#PWOERtmp Via78::MIPI_DSI0_DATA3_P_PatchSignal#PWOER 0 r_0= 0.000302494
KVia78::MIPI_DSI0_DATA3_P_PatchSignal#GNDVia73::MIPI_DSI0_DATA3_N_PatchSignal#GND LVia78::MIPI_DSI0_DATA3_P_PatchSignal#GND LVia73::MIPI_DSI0_DATA3_N_PatchSignal#GND 0.36491
LVia78::MIPI_DSI0_DATA3_P_PatchSignal#PWOER Via78::MIPI_DSI0_DATA3_P_PatchSignal#PWOER Node2954::MIPI_DSI0_DATA3_Ptmp  1.3358e-11
VRLVia78::MIPI_DSI0_DATA3_P_PatchSignal#PWOER Node2954::MIPI_DSI0_DATA3_Ptmp Node2954::MIPI_DSI0_DATA3_P 0 r_0= 2.52678e-05
LNode2408::MIPI_DSI0_DATA3_N Node2408::MIPI_DSI0_DATA3_N Via73::MIPI_DSI0_DATA3_N_PatchSignal#GNDtmp  1.3358e-11
VRLNode2408::MIPI_DSI0_DATA3_N Via73::MIPI_DSI0_DATA3_N_PatchSignal#GNDtmp Via73::MIPI_DSI0_DATA3_N_PatchSignal#GND 0 r_0= 2.52678e-05
LVia73::MIPI_DSI0_DATA3_N_PatchSignal#PWOER Via73::MIPI_DSI0_DATA3_N_PatchSignal#PWOER Node2424::MIPI_DSI0_DATA3_Ntmp  1.3358e-11
VRLVia73::MIPI_DSI0_DATA3_N_PatchSignal#PWOER Node2424::MIPI_DSI0_DATA3_Ntmp Node2424::MIPI_DSI0_DATA3_N 0 r_0= 2.52678e-05
.ENDS 

